### PR TITLE
feat: series representation of cosecant

### PR DESCRIPTION
**Pull request by CoolRmal**
This PR adds
1. Some trignometric identities.
2. `tprod_pnat_odd_mul_even`, which is an invariant of [tprod_even_mul_odd](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/InfiniteSum/NatInt.html#tprod_even_mul_odd)
3. a series representation of `fun z => π / sin (π * z)`. An outline of the proof can be found in the PNT project: https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/zeta-chapter.html#lem:abadeuleulmit1

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 1]
```diff
@@ -1173,6 +1173,9 @@ theorem tan_pi_sub (x : ℂ) : tan (π - x) = -tan x :=
 theorem tan_pi_div_two_sub (x : ℂ) : tan (π / 2 - x) = (tan x)⁻¹ := by
   rw [tan_eq_sin_div_cos, tan_eq_sin_div_cos, inv_div, sin_pi_div_two_sub, cos_pi_div_two_sub]
 
+theorem tan_eq_neg_cot_add_pi_div_two (z : ℂ) : tan z = - cot (z + π / 2) := by
```
Comment (erdOne) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean]: I am guessing this should say `cot (z + π / 2) = - tan z` instead.

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 2]
```diff
@@ -201,6 +201,18 @@ theorem tprod_even_mul_odd {f : ℕ → M} (he : Multipliable fun k ↦ f (2 * k
     (∏' k, f (2 * k)) * ∏' k, f (2 * k + 1) = ∏' k, f k :=
   (he.hasProd.even_mul_odd ho.hasProd).tprod_eq.symm
 
+@[to_additive]
+theorem tprod_pnat_odd_mul_even {f : ℕ+ → M}
+    (ho : Multipliable fun (k : ℕ+) => f (2 * k - 1))
+    (he : Multipliable fun (k : ℕ+) => f (2 * k)) :
+    (∏'  k, f (2 * k - 1)) * ∏' k, f (2 * k) = ∏' k, f k := by
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean]:
```suggestion
    (∏' k, f (2 * k - 1)) * ∏' k, f (2 * k) = ∏' k, f k := by
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean (hunk 1 above)
Comment (CoolRmal) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean]: I'll update my code to address your suggestion, but is there a reason this change? I am still not very familiar with some conventions in Mathlib.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Complex.lean [hunk 3]
```diff
@@ -58,6 +58,16 @@ theorem sin_eq_zero_iff {θ : ℂ} : sin θ = 0 ↔ ∃ k : ℤ, θ = k * π :=
 theorem sin_ne_zero_iff {θ : ℂ} : sin θ ≠ 0 ↔ ∀ k : ℤ, θ ≠ k * π := by
   contrapose!; exact sin_eq_zero_iff
 
+theorem cot_add_tan {z : ℂ} (hz : ¬∃ (n : ℤ), n * π / 2 = z) : cot z + tan z = 2 / sin (2 * z) := by
```
Comment (CBirkbeck) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Complex.lean:61]: Should this be called something like cot_add_tan_eq?

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Complex.lean [hunk 4]
```diff
@@ -58,6 +58,16 @@ theorem sin_eq_zero_iff {θ : ℂ} : sin θ = 0 ↔ ∃ k : ℤ, θ = k * π :=
...
+  have hs : sin z ≠ 0 := sin_ne_zero_iff.2 fun k h => hz ⟨2 * k, by grind⟩
+  have hc : cos z ≠ 0 := cos_ne_zero_iff.2 fun k h => hz ⟨2 * k + 1, by grind⟩
+  simp [tan, cot, div_add_div (cos z) (sin z) hs hc, ← pow_two, cos_sq_add_sin_sq, sin_two_mul]
+  field_simp
+
+theorem cot_sub_cot {z : ℂ} (hz : ¬∃ (n : ℤ), n * π / 2 = z) :
```
Comment (CBirkbeck) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Complex.lean:67]: maybe this should be called `cot_sub_cot_add_pi_div_two` or something like that?

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 5]
```diff
@@ -234,6 +234,121 @@ theorem cot_series_rep (hz : x ∈ ℂ_ℤ) :
...
+      congr; simp [neg_one_pow]
+  _ = (1 / z) + ∑' (n : ℕ+), (-1) ^ (n : ℕ) * ((1 / (z - n) : ℂ) + (1 / (z + n) : ℂ)) := by
+      have hn (n : ℕ+) : ((2 * n - 1 : ℕ+) : ℕ) = 2 * n - 1 := by
+        have : 1 < 2 * n := Nat.le_trans (by norm_num) (Nat.mul_le_mul_left 2 n.2)
+        simp [PNat.sub_coe, this]
+      rw [add_assoc, ← tsum_pnat_odd_add_even (f := fun n => (-1) ^ (n : ℕ) * ((1 / (z - n) : ℂ)
+        + (1 / (z + n) : ℂ))), add_comm (∑' (k : ℕ+), (-1) ^ ((2 * k - 1 : ℕ+) : ℕ) * _) _]
+      · congr <;> aesop
+      · convert asummable'' <;> aesop
+      · simpa using asummable
```
Comment (CBirkbeck) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean:350]: This proof is quite long. I would start by breaking it up more. For example, you can probably prove the summability results you need separately (and make them private if needed)

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 6]
```diff
@@ -234,6 +234,121 @@ theorem cot_series_rep (hz : x ∈ ℂ_ℤ) :
...
+          ∑ k ∈ Finset.range n, (1 / (z + (2 * (k + 1 : ℕ) - 1)) -
+          1 / (z + (2 * (k + 1 : ℕ) + 1))) = 1 / (z + 1) - 1 / (z + (2 * n + 1)) := by
+          induction n with
+          | zero => simp
+          | succ n ih => rw [Finset.sum_range_succ, ih]; ring_nf; grind
+        refine (Filter.tendsto_congr (telescoping_sum z)).2 ?_
+        nth_rw 2 [← sub_zero (1 / (z + 1))]
+        simpa [add_comm _ (1 : ℂ), ← add_assoc, one_mul, - one_div, Function.comp_def] using
+          ((EisensteinSeries.tendsto_zero_inv_linear (1 + z) 1).comp
+          (tendsto_id.const_mul_atTop' (by linarith))).const_sub (1 / (z + 1))
```
Comment (CBirkbeck) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean:334]: This could also be its own helper lemma

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 7]
```diff
@@ -234,6 +234,121 @@ theorem cot_series_rep (hz : x ∈ ℂ_ℤ) :
   rw [h0, ← h1]
   ring
 
+/-- The series representation of the cosecant function. -/
+theorem div_sin_series_rep {z : ℂ} (hz : z ∈ integerComplement) :
+    (π / sin (π * z)) =
+    (1 / z) + ∑' (n : ℕ+), (-1) ^ (n : ℕ) * ((1 / (z - n) : ℂ) + (1 / (z + n) : ℂ)) := by
```
Comment (CBirkbeck) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean:240]: `((1 / (z - n) : ℂ) + (1 / (z + n) : ℂ))` is essentially the `cotTerm` defined in the cotangent file. I think it might be best to use that here, that way you might be able to reuse the API from there. I does mean having to work with sums over Nat, instead of pNat, but you can do what we did for cotangent and just write down the PNat version at the end. This also makes things easier since there is more Nat API to use and there are less coercions to worry about.
